US04980356
The procedure is as in Example 15, starting with 2-amino-6-trifluoromethoxybenzothiazole (9.4 g) and allyl bromide (9.6 g) in absolute ethanol (30 cc). The mixture is heated for 48 hours to boiling. After cooling of the mixture to 0° C., the precipitate is filtered off, washed with ethyl ether (200 cc) and recrystallized in boiling 2-propanol (70 cc). 3-Allyl-2-imino-6-trifluoromethoxybenzothiazoline hydrobromide (4 g), m.p. 225° C., is obtained.

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | allyl bromide | 9.6 g | C(C=C)Br | C3H5Br
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | 3-Allyl-2-imino-6-trifluoromethoxybenzothiazoline hydrobromide | 4 g | Br.C(C=C)N1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N | InChI=1S/C11H9F3N2OS.BrH/c1-2-5-16-8-4-3-7(17-11(12,13)14)6-9(8)18-10(16)15;/h2-4,6,15H,1,5H2;1H
